US05610153
a) (R)-3-(tert-Butoxycarbonylamino)-5-(p-isopropylbenzyl)-2,3,4,5-tetrahydro-1,5-benzoxazepin-4-one
Obtained analogously to the directions in Example 1a) starting from 4.8 g of (R)-3-(tert-butoxycarbonyl-amino)-2,3-dihydro-1,5-benzoxazepin-4-one (prepared analogously to (S)-3-(tert-butoxycarbonylamino)-2,3-dihydro-1,5-benzoxazepin-4-one, starting from N-Boc-(D)-serine), 4.4 g of p-isopropylbenzyl chloride, 2.9 g of potassium carbonate and 166 mg of potassium iodide. Rf value (eluant: hexane/ethyl acetate 4:1): 0.33.

reactant | (R)-3-(tert-butoxycarbonyl-amino)-2,3-dihydro-1,5-benzoxazepin-4-one | 4.8 g | C(C)(C)(C)OC(=O)N[C@@H]1COC2=C(NC1=O)C=CC=C2 | C14H18N2O4
reactant | (S)-3-(tert-butoxycarbonylamino)-2,3-dihydro-1,5-benzoxazepin-4-one | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(NC1=O)C=CC=C2 | C14H18N2O4
reactant | N-Boc-(D)-serine | C(=O)(OC(C)(C)C)N[C@H](CO)C(=O)O | C8H15NO5
reactant | p-isopropylbenzyl chloride | 4.4 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 166 mg | [I-].[K+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (R)-3-(tert-Butoxycarbonylamino)-5-(p-isopropylbenzyl)-2,3,4,5-tetrahydro-1,5-benzoxazepin-4-one | C(C)(C)(C)OC(=O)N[C@@H]1COC2=C(N(C1=O)CC1=CC=C(C=C1)C(C)C)C=CC=C2 | C24H30N2O4
